US08580832B2
4-[2-Chloro-4-(2-imino-4-oxo-thiazolidin-5-ylidenemethyl)-phenoxy]-3-trifluoromethyl-benzonitrile was prepared using 2-amino-thiazol-4-one and 4-[2-Chloro-4-(2,4-dioxo-thiazolidin-5-ylidenemethyl)-phenoxy]-3-trifluoromethylbenzonitrile according to General Procedure C. 1H NMR (400 MHz, DMSO-d6) δ 9.56 (br, 1H), 9.24 (br, 1H), 8.40 (d, J=1.56 Hz, 1H), 8.08 (dd, J=8.6 and 1.95 Hz, 1H), 7.90 (d, J=1.96 Hz, 1H), 7.65 (d, J=2.35 Hz, 1H), 7.63 (s, 1H), 7.50 (d, J=8.61 Hz, 1H), 7.07 (d, J=8.61 Hz, 1H). LC/MS (m/z) [M+1]+424.2 (calculated for C18H10ClF3N3O2S 424.0).

reactant | 2-amino-thiazol-4-one | NC=1SCC(N1)=O | C3H4N2OS
reactant | 4-[2-Chloro-4-(2,4-dioxo-thiazolidin-5-ylidenemethyl)-phenoxy]-3-trifluoromethylbenzonitrile | ClC1=C(OC2=C(C=C(C#N)C=C2)C(F)(F)F)C=CC(=C1)C=C1C(NC(S1)=O)=O | C18H8ClF3N2O3S
product | 4-[2-Chloro-4-(2-imino-4-oxo-thiazolidin-5-ylidenemethyl)-phenoxy]-3-trifluoromethyl-benzonitrile | ClC1=C(OC2=C(C=C(C#N)C=C2)C(F)(F)F)C=CC(=C1)C=C1C(NC(S1)=N)=O | C18H9ClF3N3O2S
